US09085555B2
(6-Benzyloxy-3-carbamoyl-indol-1-yl)-acetic acid
was prepared from 6-benzyloxy-1H-indole-3-carbaldehyde [92855-64-6] using similar protocols as described in Scheme A11 for the preparation of (3-carbamoyl-5-chloro-indol-1-yl)-acetic acid. White solid. MS (LC/MS): 325 [M+H]+, 649 [2M+H]+; tR (HPLC conditions b): 4.06 min.

reactant | 6-benzyloxy-1H-indole-3-carbaldehyde | C(C1=CC=CC=C1)OC1=CC=C2C(=CNC2=C1)C=O | C16H13NO2
reactant | (3-carbamoyl-5-chloro-indol-1-yl)-acetic acid | C(N)(=O)C1=CN(C2=CC=C(C=C12)Cl)CC(=O)O | C11H9ClN2O3
product | (6-Benzyloxy-3-carbamoyl-indol-1-yl)-acetic acid | C(C1=CC=CC=C1)OC1=CC=C2C(=CN(C2=C1)CC(=O)O)C(N)=O | C18H16N2O4
